US06756378B2
To a stirred solution of dimethyl (S)-4-(2-pyrrolidinylmethoxy)phthalate (212 mg, 0.72 mmol) in DMF (8 mL) was added pentafluorophenyl ester of the 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid (346 mg, 0.72 mmol) and Et3N (120 ml, 0.86 mmol), and the mixture was stirred overnight. The resulting mixture was diluted with EtOAc, washed with 1 N HCl, sat. NaHCO3, brine, and dried over MgSO4. The solvent was evaporated off in vacuo to give 413 mg (97%) dimethyl (S)-4-[1-[3-methoxy-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinylmethoxy]phthalate as an oil. 1H-NMR (CDCl3) δ1.92-2.12 (m, 4 H), 2.29 (br s, 3 H), 3.51-3.64 (m, 7 H), 3.87 (s, 3 H), 3.89 (s, 3 H), 4.10-4.19 (m, 2 H), 4.44 (m, 1 H), 6.73-8.02 (series of m, total 12 H).

reactant | dimethyl (S)-4-(2-pyrrolidinylmethoxy)phthalate | 0.72 mmol, 212 mg | N1[C@@H](CCC1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C15H19NO5
reactant | 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetic acid | 0.72 mmol, 346 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C17H18N2O4
reactant | Et3N | 0.86 mmol, 120 ml | CCN(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | dimethyl (S)-4-[1-[3-methoxy-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinylmethoxy]phthalate | 413 mg, 97% | COC=1C=C(C=CC1)C(C(=O)N1[C@@H](CCC1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC)NC(=O)NC1=C(C=CC=C1)C | C32H35N3O8
